US06211215B1
In substantially the same manner as in Reference Example 47, 9-fluorenylideneacetamide was allowed to react with 1,3-dichloroacetone to give 4-chloromethyl-2-(9-fluorenylidene)methyloxazole. The yield was 36%. Recrystallization from ethyl acetate-hexane gave yellow prisms, mp 175-176° C.

reactant | 9-fluorenylideneacetamide | C1=CC=CC=2C3=CC=CC=C3C(C12)=CC(=O)N | C15H11NO
reactant | 1,3-dichloroacetone | ClCC(=O)CCl | C3H4Cl2O
product | 4-chloromethyl-2-(9-fluorenylidene)methyloxazole | yield was 36% | ClCC=1N=C(OC1)C=C1C2=CC=CC=C2C=2C=CC=CC12 | C18H12ClNO
